US05824690
Combine 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid (14.5 g, 47.5 mmol) and N-methylpiperazine (12 mL, 108 mmol) in dichloromethane (450 mL), Add HOBt (8.0 g), EDC (11.2 g). After 18 hours, evaporate in vacuo to give a residue, dissolve the residue in ethyl acetate, and extract repeatedly with water. Dry the organic layer over MgSO4, filter, and concentrate in vacuo to give 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide: Rf =0.33 (6% methanol/dichloromethane).

reactant | 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid | 47.5 mmol, 14.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
reactant | N-methylpiperazine | 108 mmol, 12 mL | CN1CCNCC1 | C5H12N2
reactant | HOBt | 8.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 11.2 g
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-tert-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide | CN1CCN(CC1)C(=O)N.C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | InChI=1S/C17H23NO4.C6H13N3O/c1-16(2,3)22-15(21)18-11-9-17(10-12-18,14(19)20)13-7-5-4-6-8-13;1-8-2-4-9(5-3-8)6(7)10/h4-8H,9-12H2,1-3H3,(H,19,20);2-5H2,1H3,(H2,7,10)
